* Z:\home\oleksandr\workspace\emat\ltspice\filter_bessel_band_pass.asc
V1 +12v 0 30
R2 +12v C1 1.5K
Q5 C1 B1 0 0 BC849/SIE
C1 B1 i1 3.3n
V3 N001 0 AC 1
R12 i1 N001 10
R16 0 i1 27
R1 C1 B1 68K
R3 B1 0 68K
C2 N003 N002 2.4n
L1 N003 N004 10µ
C3 0 N004 12n
R5 N004 0 50
R6 N002 C1 50
L2 N004 0 2.2µ
.model NPN NPN
.model PNP PNP
.lib C:\users\oleksandr\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.include S_afbjt.lib
.include BD441.LIB
;tran 0 0.02m 0 0.001
.ac oct 100 100K 10000K
.backanno
.end
